US07700638B2
N,N-Diethyl-3-(3-Phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)propionamide
Alumina supported formate was prepared according to the procedure of Danks and Desai (T. N. Danks and B. Desai, Green Chemistry, 2002, 4, 179-180). A Smith Process Vial™ was loaded with alumina supported formate (0.5 g), Wilkinson's catalyst (0.5 mg), N,N-diethyl-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylamide (0.064 mmol, 25 mg) and dimethylsulphoxide (0.5 ml) and was irradiated for 600 s at 180° C. using a Personal Chemistry Smith Creator™ microwave. The mixture was filtered to remove the solid support and the filtrate was purified by LCMS to give, after evaporation, the title compound as a solid (7.8 mg, 31%), m/z 390.0 (M+H)+.

reactant | formate | C(=O)[O-]
reactant | formate | 0.5 g | C(=O)[O-]
reactant | N,N-diethyl-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylamide | 0.064 mmol, 25 mg | C(C)N(C(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O)CC | C21H20F3N3O
catalyst | Wilkinson's catalyst | 0.5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | dimethylsulphoxide | 0.5 ml | CS(=O)C | C2H6OS
product | N,N-Diethyl-3-(3-Phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)propionamide | C(C)N(C(CCC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O)CC | C21H22F3N3O
